US06559145B2
Methyl 5-Iodo-2-((methylsulfonyl)amino)benzoate [BW.2]
To a solution of 5-iodoanthranilic acid methyl ester (1.00 g) and triethylamine (1.01 mL) in CH2Cl2 (25 mL) is added methanesulfonyl chloride (0.59 mL) at 0° C. The ice bath is removed and after 3 h at room temperature the solution is poured into water (20 mL) and extracted with CH2Cl2 (2×20 mL). The organic layers are combined, dried over MgSO4 and the solvent removed in vacuo. The resulting residue is dissolved in CH3OH (20 mL) and sodium methoxide (20 mL) is added. After 45 min, the solvent is removed in vacuo. The residue is diluted with Et2O (20 mL) and washed with water (20 mL). The organic layer is separated, dried over MgSO4, filtered, and concentrated in vacuo. The crude black liquid is purified by silica gel column chromatography (4/1, hexanes/EtOAc ) to afford 0.58g (46%) of the title compound as a brown solid. Physical characteristics: m.p. 119-120° C.; 1H NMR (300 MHz, CDCl3) δ 10.41, 8.36, 7.82, 7.52, 3.94, 3.06; IR (diffuse reflectance) 1700, 1682, 1483, 1385, 1335, 1328, 1307, 1249, 1213, 1159, 1147, 1093, 1086, 978, 971 cm−1; MS (FAB) m/z 356 (MH+); HRMS (FAB) m/z 355.9447 (C9H10INO4S+H). Anal. Found: C, 30.49; H, 2.88; N, 3.96.

reactant | 5-iodoanthranilic acid methyl ester | 1.00 g | COC(C=1C(N)=CC=C(C1)I)=O | C8H8INO2
reactant | triethylamine | 1.01 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.59 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | Methyl 5-Iodo-2-((methylsulfonyl)amino)benzoate | 0.58g, 46% | IC=1C=CC(=C(C(=O)OC)C1)NS(=O)(=O)C | C9H10INO4S
